US08293737B2
c) 2-Methoxy-5-nitro-nicotinic acid
To 2-chloro-5-nitro-nicotinic acid (1.0 mmol) in methanol was added a solution of sodium methoxide in methanol (2.4 mmol, freshly prepared from sodium metal in methanol). The solution was refluxed for 2 h and the mixture was allowed to cool and concentrated in vacuo. To the resulting residue was added 10% citric acid solution (20 ml) and the solution extracted with ethyl acetate (20 ml). The organic layer was dried (MgSO4) and concentrated in vacuo. The residue was crystallised from water to give a yellow-white solid (73%).

reactant | 2-chloro-5-nitro-nicotinic acid | 1.0 mmol | ClC1=C(C(=O)O)C=C(C=N1)[N+](=O)[O-] | C6H3ClN2O4
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | [Na] | Na
solvent | methanol | CO | CH4O
product | 2-Methoxy-5-nitro-nicotinic acid | 73% | COC1=C(C(=O)O)C=C(C=N1)[N+](=O)[O-] | C7H6N2O5
